US06022822
(1) Synthesis of triphenyltin hydride
3.9 g of sodium borohydride (0.1 mol) and 70 ml of monoglyme were mixed together in a 200 ml eggplant type flask and cooled to -10° C. 70 ml of a diglyme solution containing 10.0 g of triphenyltin chloride (0.026 mol) was added to this mixture dropwise for 30 minutes. Subsequently, the mixture was stirred for another 30 minutes at -10° C. Then diglyme was removed under a reduced pressure of greater than 1 mmHg at below 0° C. Then, the resultant residue was extracted with diethylether followed by concentration under reduced pressure to yield 9.1 g of the final product of triphenyltin hydride (yield=100%).

reactant | sodium borohydride | 0.1 mol, 3.9 g | [BH4-].[Na+]
reactant | monoglyme | 70 ml | C(OC)COC | C4H10O2
reactant | triphenyltin chloride | 0.026 mol, 10.0 g | C1(=CC=CC=C1)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)Cl
solvent | diglyme | 70 ml | COCCOCCOC | C6H14O3
product | triphenyltin hydride | yield=100% | C1(=CC=CC=C1)[SnH](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/3C6H5.Sn.H/c3*1-2-4-6-5-3-1;;/h3*1-5H;;
